US06784137B2
Methyl 4,5,6-trichloropyridine-2-carboxylate (15 g, 62.4 mmol) was suspended in concentrated aqueous ammonium hydroxide (80 mL) and methanol (150 mL). After stirring for 4 hours at 25° C., the methanol was removed and the aqueous suspension was filtered. The filter cake was washed with water and dried to provide 4,5,6-trichloropyridine-2-carboxamide (13 g, 56.9 mmol), mp 169-170° C.

reactant | Methyl 4,5,6-trichloropyridine-2-carboxylate | 62.4 mmol, 15 g | ClC1=CC(=NC(=C1Cl)Cl)C(=O)OC | C7H4Cl3NO2
reactant | ammonium hydroxide | 80 mL | [OH-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
product | 4,5,6-trichloropyridine-2-carboxamide | 56.9 mmol, 13 g | ClC1=CC(=NC(=C1Cl)Cl)C(=O)N | C6H3Cl3N2O
